US20010027196A1
2-Amino-4-(4-chloro-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile, 4-chloropyrazole and cesium carbonate in NMP. EI-MS m/e (%): 269 (M{37Cl}+H+, 30). 267 (M{35Cl}+H+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 4-chloropyrazole | ClC=1C=NNC1 | C3H3ClN2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-Amino-4-(4-chloro-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=CC(=C1)Cl)C#N)SC | C9H7ClN6S
